US08008295B2
Step A: Ethyl-5-bromo-3-{[(5-tert-butoxy-5-oxopentyl)amino]sulfonyl}-1-(phenylsulfonyl)-1H-indole-2-carboxylate
Following the procedures described in Steps D and E of Example 1, replacing in Step D ethyl 5-chloro-3-(chlorosulfonyl)-1-(phenylsulfonyl)-1H-indole-2-carboxylate with ethyl 3-(chlorosulfonyl)-5-bromo-1-(phenylsulfonyl)-1H-indole-2-carboxylate, and methylamine hydrochloride with tert-butyl 5-aminopentanoate oxalic acid salt, the title compound was obtained after flash chromatography through silica gel (100% dicloromethane). ESI+ MS: 587 [M-CH2═CMe2]+.

reactant | ethyl 5-chloro-3-(chlorosulfonyl)-1-(phenylsulfonyl)-1H-indole-2-carboxylate | ClC=1C=C2C(=C(N(C2=CC1)S(=O)(=O)C1=CC=CC=C1)C(=O)OCC)S(=O)(=O)Cl | C17H13Cl2NO6S2
reactant | ethyl 3-(chlorosulfonyl)-5-bromo-1-(phenylsulfonyl)-1H-indole-2-carboxylate | ClS(=O)(=O)C1=C(N(C2=CC=C(C=C12)Br)S(=O)(=O)C1=CC=CC=C1)C(=O)OCC | C17H13BrClNO6S2
reactant | methylamine hydrochloride | Cl.CN
reactant | tert-butyl 5-aminopentanoate oxalic acid salt | C(C(=O)O)(=O)O.NCCCCC(=O)OC(C)(C)C
product | Ethyl-5-bromo-3-{[(5-tert-butoxy-5-oxopentyl)amino]sulfonyl}-1-(phenylsulfonyl)-1H-indole-2-carboxylate | C(C)OC(=O)C=1N(C2=CC=C(C=C2C1S(=O)(=O)NCCCCC(=O)OC(C)(C)C)Br)S(=O)(=O)C1=CC=CC=C1 | C26H31BrN2O8S2
